US04593035
6-Amino-3,4-dihydrocarbostyril (1.6 g) is dissolved in a mixture of acetic acid (5 ml) and water (10 ml), and thereto is added dropwise a solution of sodium cyanate (1.3 g) in water (9 ml) with stirring at room temperature. The mixture is stirred at the same temperature for 1 hour. After the reaction, the resulting precipitate is separated by filtration, washed with water, purified by silica gel column chromatography (solvent; chloroform:methanol=50:1), and recrystallized from dimethylformamide-water to give 6-ureido-3,4-dihydrocarbostyril (0.45 g) as colorless needles, m.p.>300° C.

reactant | 6-Amino-3,4-dihydrocarbostyril | 1.6 g | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
reactant | sodium cyanate | 1.3 g | [O-]C#N.[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
solvent | water | 9 ml | O | H2O
product | 6-ureido-3,4-dihydrocarbostyril | 0.45 g | N(C(=O)N)C=1C=C2CCC(NC2=CC1)=O | C10H11N3O2
